US07446222B2
Methyl 4-(acetylamino)-2′-bromo-2-biphenylcarboxylate
Acetyl chloride (70 mg, 63 μl, 0.89 mmol) was added to a solution of methyl 4-amino-2′-bromo-2-biphenylcarboxylate (227 mg, 0.74 mmol) and triethylamine (90 mg, 123 ul, 0.89 mmol) in diethyl ether (3 ml) and stirred at room temperature for 1 hour. The mixture was diluted with ethyl acetate(10 ml) and washed with 2M HCl, 5% NaHCO3, water and brine the organic phase was dried and evaporated to leave the title compound as a yellow oil (226 mg, 88%).

reactant | Acetyl chloride | 0.89 mmol, 63 μl, 70 mg | C(C)(=O)Cl | C2H3ClO
reactant | methyl 4-amino-2′-bromo-2-biphenylcarboxylate | 0.74 mmol, 227 mg | NC=1C=C(C(=CC1)C1=C(C=CC=C1)Br)C(=O)OC | C14H12BrNO2
reactant | triethylamine | 0.89 mmol, 123 ul, 90 mg | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 4-(acetylamino)-2′-bromo-2-biphenylcarboxylate | 226 mg, 88% | C(C)(=O)NC=1C=C(C(=CC1)C1=C(C=CC=C1)Br)C(=O)OC | C16H14BrNO3
